US07589232B2
Step c) Formation of N-(4-dec-1-ynylbenzyl)-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2-thien-2-ylacetamide
The title compound was prepared following the procedure E using 6-[(4-dec-1-ynylbenzyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one and thien-2-ylacetyl chloride. HPLC, Rt: 6.1 min (purity: 82.6%).

reactant | 6-[(4-dec-1-ynylbenzyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | C(#CCCCCCCCC)C1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C27H33NO3
reactant | thien-2-ylacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | N-(4-dec-1-ynylbenzyl)-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2-thien-2-ylacetamide | C(#CCCCCCCCC)C1=CC=C(CN(C(CC=2SC=CC2)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C33H37NO4S
